US08247403B2
(2) 6-(morpholin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine dihydrochloride
A mixture of tert-butyl 6-(morpholin-4-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (120 mg, 0.359 mmol), ethyl acetate (1 ml) and 4N hydrogen chloride-ethyl acetate solution (4 ml) was stirred for 1 hr at room temperature, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (77.4 mg, 92.0%) as a solid.

reactant | tert-butyl 6-(morpholin-4-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.359 mmol, 120 mg | N1(CCOCC1)C1=CC=CC2=C1CN(CCO2)C(=O)OC(C)(C)C | C18H26N2O4
reactant | hydrogen chloride-ethyl acetate | 4N, 4 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 6-(morpholin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepine dihydrochloride | 77.4 mg, 92.0% | Cl.Cl.N1(CCOCC1)C1=CC=CC2=C1CNCCO2 | InChI=1S/C13H18N2O2.2ClH/c1-2-12(15-5-8-16-9-6-15)11-10-14-4-7-17-13(11)3-1;;/h1-3,14H,4-10H2;2*1H
